US07273877B2
4-[2-Fluoro-4-(3-hydroxy-1-propynyl)anilino]-N-(2-hydroxyethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide was hydrogenated in MeOH in the presence of 5% Pd/C as for example 3. Purification of the crude oil was carried out by column chromatography on silica gel (5% MeOH/CH2Cl2 as eluant) to give 4-[2-fluoro-4-(3-hydroxypropyl)anilino]-N-(2-hydroxyethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (92%), m.p. (CH2Cl2/MeOH) 177-179° C. 1H NMR [(CD3)2SO, 400 MHz] δ 9.88 (s, 1H), 8.40 (br t, J=5.2 Hz, 1H), 8.26 (s, 1H), 7.33 (t, J=8.4 Hz, 1H), 7.17 (dd, J=11.8, 1.4 Hz, 1H), 7.06 (dd, J=8.2, 1.2 Hz, 1H), 5.42 (d, J=0.8 Hz, 1H), 4.78 (t, J=5.5 Hz, 1H), 4.49 (t, J=5.1 Hz, 1H), 3.50 (q, J=5.8 Hz, 2H), 3.41 (q, J=6.0 Hz, 2H), 3.35 (s, 3H), 3.31-3.25 (m, 2H), 2.63 (t, J=7.6 Hz, 2H), 1.72 (pentet, J=6.5 Hz, 2H). Anal. Calcd for C18H22FN3O4: C, 59.5; H, 6.1; N, 11.6. Found: C, 59.3; H, 6.3; N, 11.5.

reactant | 4-[2-Fluoro-4-(3-hydroxy-1-propynyl)anilino]-N-(2-hydroxyethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NCCO)C=CC(=C1)C#CCO | C18H18FN3O4
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-[2-fluoro-4-(3-hydroxypropyl)anilino]-N-(2-hydroxyethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 92% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NCCO)C=CC(=C1)CCCO | C18H22FN3O4
